US08048909B2
1-{1-[(3,4-Difluorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
To a solution (7 mL) of tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (70 mg) in tetrahydrofuran was added tert-butoxy potassium (42 mg) at room temperature and the mixture was stirred for 30 min. 3,4-Difluorobenzenesulfonyl chloride (68 mg) was added at room temperature and the mixture was stirred for 1.5 hr. To the reaction mixture was added ice water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→4:1), and dissolved in methanol (15 mL). 4 mol/l Hydrogen chloride-ethyl acetate solution (1.5 mL) was added and the mixture was stirred at 65° C. for 30 min. The reaction mixture was concentrated under reduced pressure, and crystallized from ethyl acetate to give the title compound as pale-brown crystals (yield 32 mg, 33%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 7 mL, 70 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | tert-butoxy potassium | 42 mg | C(C)(C)(C)O[K]
reactant | 3,4-Difluorobenzenesulfonyl chloride | 68 mg | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-{1-[(3,4-Difluorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 32 mg, 33% | Cl.FC=1C=C(C=CC1F)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C18H16F2N2O2S.ClH/c1-21-11-13-9-18(14-5-3-2-4-6-14)22(12-13)25(23,24)15-7-8-16(19)17(20)10-15;/h2-10,12,21H,11H2,1H3;1H
